US05736550
c) N-(p-Fluorobenzyl)-N,N'-bis(2-methoxyethyl)-1,3-propanediamine
To a solution of N,N'-bis(methoxyethyl)-1,3-propanediamine (4.5 g, 23.9 mmol) in ethanol (100 ml) was added under ice-cooling a solution of p-fluorobenzyl chloride (2.8 g, 19.1 mmol) in ethanol (50 ml) and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off under reduced pressure and the resulting white oily substance was subjected to silica gel chromatography to obtain 2.3 g of the title compound as a colorless oily substance from the fraction from methylene chloride-methanol-aqueous ammonia. Yield=40%.

reactant | N,N'-bis(methoxyethyl)-1,3-propanediamine | 23.9 mmol, 4.5 g | COCCNCCCNCCOC | C9H22N2O2
reactant | p-fluorobenzyl chloride | 19.1 mmol, 2.8 g | FC1=CC=C(CCl)C=C1 | C7H6ClF
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(p-Fluorobenzyl)-N,N'-bis(2-methoxyethyl)-1,3-propanediamine | 2.3 g, Yield=40% | FC1=CC=C(CN(CCCNCCOC)CCOC)C=C1 | C16H27FN2O2
